US04138397
α-(tert-Butoxycarbonyl)amino(2,3-dihydro-5-benzofuranyl)acetic acid
α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid (192 mg, 1 mmole) is added to 10 ml of 1:1 dioxane-water mixture with 4 mM of triethylamine and 0.17 or tertbutoxycarbonylazide. This mixture is stirred overnight at room temperature. The mixture is diluted with water and extracted with chloroform. The chloroform is dried and evaporated. The residue is taken up in ethyl acetate and washed with dilute aqueous hydrochloric acid. The organic layer is dried over magnesium sulfate and evaporated to give the title compound in a yield of about 80%.

reactant | α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid | 1 mmole, 192 mg | NC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H11NO3
reactant | dioxane water | 10 ml | O1CCOCC1.O
reactant | triethylamine | 4 mM | C(C)N(CC)CC | C6H15N
reactant | tertbutoxycarbonylazide | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | water | O | H2O
product | α-(tert-Butoxycarbonyl)amino(2,3-dihydro-5-benzofuranyl)acetic acid | yield of about 80% | C(C)(C)(C)OC(=O)C(C(=O)O)(C=1C=CC2=C(CCO2)C1)N | C15H19NO5
